US09085575B2
0.61 ml (3.07 mmol) of diisopropyl diazene-1,2-dicarboxylate is added drop by dr op at 0° C. under argon to 0.5 g (2.05 mmol) of tert-butyl 4-(3-hydroxypropyl)piperazine-1-carboxylate, 0.3 g (2.46 mmol) of 4-hydroxybenzaldehyde and 1 g (3.07 mmol) of supported triphenylphosphine (3 mmol/g of resin) diluted in 14.5 ml of anhydrous tetrahydrofuran. The reaction mixture is stirred at room temperature for 20 hours, and then the solid is filtered and rinsed with dichloromethane. The filtrate is concentrated and diluted in sodium hydroxide solution (1 M), the product is extracted several times with ethyl acetate, and then the organic phases are combined, dried on magnesium sulfate and concentrated. The residue is purified by silica gel chromatography (eluent: 4:6 cyclohexane/ethyl acetate to 100% ethyl acetate) to yield 0.58 g of tert-butyl 4-(3-(4-formylphenoxy)propyl)piperazine-1-carboxylate in the form of a colorless oil.

reactant | diisopropyl diazene-1,2-dicarboxylate | 3.07 mmol, 0.61 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tert-butyl 4-(3-hydroxypropyl)piperazine-1-carboxylate | 2.05 mmol, 0.5 g | OCCCN1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O3
reactant | 4-hydroxybenzaldehyde | 2.46 mmol, 0.3 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triphenylphosphine | 3.07 mmol, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 14.5 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-(3-(4-formylphenoxy)propyl)piperazine-1-carboxylate | 0.58 g | C(=O)C1=CC=C(OCCCN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C19H28N2O4
